US07427631B2
5-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl)methyl]-5-{2-[(phenylmethyl)oxy]ethyl}imidazolidine-2,4-dione
The title compound was prepared as described in the synthesis of 5-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl)methyl]-5-[(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)methyl]imidazolidine-2,4-dione starting from 5-Chloro-2-(piperidine-4-yloxy)-pyridine hydrochloride and (2,5-dioxo-4-{2-[(phenylmethyl)oxy]ethyl}imidazolidin-4-yl)methanesulfonyl chloride.

reactant | 5-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl)methyl]-5-[(3,4,4-trimethyl-2,5-dioxoimidazolidin-1-yl)methyl]imidazolidine-2,4-dione | ClC=1C=CC(=NC1)OC1CCN(CC1)S(=O)(=O)CC1(C(NC(N1)=O)=O)CN1C(N(C(C1=O)(C)C)C)=O | C21H27ClN6O7S
reactant | 5-Chloro-2-(piperidine-4-yloxy)-pyridine hydrochloride | Cl.ClC=1C=CC(=NC1)OC1CCNCC1
reactant | (2,5-dioxo-4-{2-[(phenylmethyl)oxy]ethyl}imidazolidin-4-yl)methanesulfonyl chloride | O=C1NC(C(N1)(CCOCC1=CC=CC=C1)CS(=O)(=O)Cl)=O | C13H15ClN2O5S
product | 5-[({4-[(5-chloropyridin-2-yl)oxy]piperidin-1-yl}sulfonyl)methyl]-5-{2-[(phenylmethyl)oxy]ethyl}imidazolidine-2,4-dione | ClC=1C=CC(=NC1)OC1CCN(CC1)S(=O)(=O)CC1(C(NC(N1)=O)=O)CCOCC1=CC=CC=C1 | C23H27ClN4O6S
